US07829560B2
3-Fluoro-N-{4-[(2-{[2-(1-methylpyrrolidin-2-yl)ethyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-piperidin-1-ylbenzamide (Compound B394).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-(1-methyl-pyrrolidin-2-yl)ethylamine according to conditions described in general procedure C. Mp: 112-114° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.30-1.61 (m, 10 H), 1.37-2.10 (m, 5 H), 2.84 (bs, 2 H), 3.11-3.36 (m, 7 H), 6.15-6.30 (m, 1 H), 6.96 (d, J=12.4 Hz, 1 H), 7.08-7.20 (m, 2 H), 7.37 (d, J=8.0 Hz, 1 H), 7.43 (s, 1 H), 7.52-7.59 (m, 3 H), 7.79 (d, J=8.4 Hz, 1 H), 7.96 (d, J=7.7 Hz, 1 H), 8.21 (s, 1 H), 10.40 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-(1-methyl-pyrrolidin-2-yl)ethylamine | CN1C(CCC1)CCN | C7H16N2
product | 3-Fluoro-N-{4-[(2-{[2-(1-methylpyrrolidin-2-yl)ethyl]amino}pyrimidin-4-yl)oxy]-1-naphthyl}-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCC2N(CCC2)C)C=C(C1)N1CCCCC1 | C33H37FN6O2
